US09120817B2
C. (3S,11aR)—N-[(2,4-Difluorophenyl)methyl]-3-methyl-6-(methyloxy)-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxamide
(3S,11aR)-3-Methyl-6-(methyloxy)-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxylic acid (3.00 g) and 1,1′-carbonyldiimidazole (CDI) (2.15 g) were slurried in 1,2-dimethoxyethane (DME) (30 mL). The mixture was heated to 80° C. for 1 h. The resulting solution was cooled to 20° C., then treated with 2,4-difluorobenzylamine (1.45 mL). After stirring for 1 h, the mixture was quenched with water (30 mL) and DME was removed under reduced pressure. The product was collected by filtration and dried in a vacuum oven overnight at 50° C. The product was obtained as a solid.

reactant | (3S,11aR)-3-Methyl-6-(methyloxy)-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxylic acid | 3.00 g | C[C@H]1CO[C@H]2N1C(C=1N(C2)C=C(C(C1OC)=O)C(=O)O)=O | C13H14N2O6
reactant | 1,1′-carbonyldiimidazole | 2.15 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,4-difluorobenzylamine | 1.45 mL | FC1=C(CN)C=CC(=C1)F | C7H7F2N
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
product | (3S,11aR)—N-[(2,4-Difluorophenyl)methyl]-3-methyl-6-(methyloxy)-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxamide | FC1=C(C=CC(=C1)F)CNC(=O)C=1C(C(=C2N(C[C@@H]3N(C2=O)[C@H](CO3)C)C1)OC)=O | C20H19F2N3O5
